US06720338B2
tert-butyl 4-(4-hydroxy-4-phenylpiperidin-1-yl)benzoate
A solution of 4-hydroxy-4-phenyl piperidine (221 mg, 1.25 mmol) in DMSO (1 mL) was treated with tert-butyl-4-fluorobenzoate (196 mg, 1.00 mmol) and powdered potassium carbonate (173 mg, 1.25 mmol), stirred vigorously at 125° C. for 16 hours, cooled to room temperature, diluted with diethyl ether, washed with brine, dried (MgSO4), filtered, and concentrated to provide the desired product. MS (DCI(+)) m/e 354 (M+H)+.

reactant | 4-hydroxy-4-phenyl piperidine | 1.25 mmol, 221 mg | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | tert-butyl-4-fluorobenzoate | 1.00 mmol, 196 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)F)=O | C11H13FO2
reactant | potassium carbonate | 1.25 mmol, 173 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-butyl 4-(4-hydroxy-4-phenylpiperidin-1-yl)benzoate | OC1(CCN(CC1)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C1=CC=CC=C1 | C22H27NO3
